US07262196B2
LDA (50.1 mL of a 1.5 mmol mL-1 solution in c-C6H12, 7.6 mmol) was added to a stirred solution of ethyl 3-pyridylacetate (1.15 g, 6.9 mmol) in anhydrous THF-HMPA (3:1, 260 mL) at −78° C. After 30 min, iodomethylcyclopentane (1.46 g, 6.9 mmol) was added, then stirring was continued at −78° C. for 4.5 h. The mixture was allowed to warm to 20° C., before being stirred for 16 h. The reaction mixture was carefully quenched with saturated aqueous NH4Cl (20 mL), then H2O (100 mL) was added. The mixture was extracted with EtOAc (3×50 mL), then the extracts were dried (Na2SO4). Filtration, solvent evaporation, and column chromatography (n-C6H4-EtOAc) furnished ethyl 3-cyclopentyl-2-pyridin-3-ylpropionate: m/z (ES+)=248.3 [M+H]+. Step 2: A stirred solution of this compound (0.73 g, 3.0 mmol) in THF (3 mL) was treated with 2M NaOH (3 mL, 6.0 mmol). After 16 h at 20° C., the organic solvent was removed under reduced pressure, then the pH of the remaining solution was adjusted to 6.5, before being extracted with EtOAc. The EtOAc extracts were dried (Na2SO4), filtered, and concentrated to give the title compound: m/z (ES+)=220.2 [M+H]+. Preparation 3: (E)-3-Cyclopentyl-2-(6-methylsulfanylpyridin-3-yl)acrylic Acid

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | ethyl 3-pyridylacetate | 6.9 mmol, 1.15 g | N1=CC(=CC=C1)CC(=O)OCC | C9H11NO2
reactant | iodomethylcyclopentane | 6.9 mmol, 1.46 g | ICC1CCCC1 | C6H11I
solvent | THF HMPA | 260 mL | C1CCOC1.CN(C)P(=O)(N(C)C)N(C)C
product | ethyl 3-cyclopentyl-2-pyridin-3-ylpropionate | C1(CCCC1)CC(C(=O)OCC)C=1C=NC=CC1 | C15H21NO2
